US07572915B2
3-Mercapto-N,N-dimethylbenzamide (alternative synthesis)
A solution of 3,3′-dithiobis(N,N-dimethylbenzamide) (Ger. Offen. (1978), DE 2821410) (54.2 g) in 1,4-dioxane (400 ml) and water (100 ml) was warmed to 35° C. and concentrated hydrochloric acid (3 ml) was added. Triphenylphosphine (55 g) was added portionwise over 25 min maintaining the temperature below 42° C., then the mixture was stirred at 40° C. for 2.5 h. After cooling to ambient temperature the mixture was concentrated to ca. 200 ml, and partitioned between 2N aqueous sodium hydroxide solution (250 ml) and ethyl acetate (500 ml). The aqueous phase was separated and washed with ethyl acetate (2×300 ml). The aqueous phase was acidified with 5N hydrochloric acid and extracted with ethyl acetate (3×400 ml). The organic extracts of the acidic aqueous phase were combined, dried over sodium sulphate, and the solvent evaporated to leave a solid. The solid was dissolved in hot ethyl acetate (100 ml) and 40-60 petrol (160 ml) was added to the hot solution. The solution was left to cool and the resulting solid filtered off, washed and dried to give the title compound (28.4 g)

reactant | 3,3′-dithiobis(N,N-dimethylbenzamide) | 54.2 g | CN(C(C1=CC(=CC=C1)SSC=1C=C(C(=O)N(C)C)C=CC1)=O)C | C18H20N2O2S2
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | Triphenylphosphine | 55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-Mercapto-N,N-dimethylbenzamide | 28.4 g | SC=1C=C(C(=O)N(C)C)C=CC1 | C9H11NOS
